US07772243B2
99 mg 3-Fluoro-piperidine hydrochloride, 300 mg 4-Chloro-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinazolin-6-yl]-amide and 0.37 ml of DIEA were dissolved in 5 ml THF stirred at 70° C. overnight. The mixture was then diluted with ethyl acetate, washed with water and brine and dried over Na2SO4. The resulting solids were flash chromatographed with 0-4% methanol in chloroform to give 275 mg of 4-(3-Fluoro-piperidin-1-yl)-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinazol in-6-yl]-amide.

reactant | 3-Fluoro-piperidine hydrochloride | 99 mg | Cl.FC1CNCCC1
reactant | 4-Chloro-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinazolin-6-yl]-amide | 300 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCCl)=O)OC | C19H15Cl2FN4O2
reactant | DIEA | 0.37 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Fluoro-piperidin-1-yl)-but-2-enoic acid [4-(3-chloro-4-fluoro-phenylamino)-7-methoxy-quinazol in-6-yl]-amide | 275 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CC(CCC1)F)=O)OC | C24H24ClF2N5O2
